US08067415B2
To a solution of 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidin-1′-yl}benzoic acid (35 mg, 0.069 mmol), HATU (0.032 g, 0.086 mmol), N,N-diisopropylethylamine (30.2 μL, 0.173 mmol), 1-Hydroxybenzotriazole (11.7 mg, 0.0867 mmol) in DMF (3.0 mL) was added diethylame (8.25 μL, 0.079 mmol). The reaction mixture was allowed to stir at room temperature overnight. To the mixture was added NaHCO3 (sat. aq., 10 mL) and dichloromethane (10 mL). The organic layer was separated and the aqueous layer was washed with an addition portion of dichloromethane (10 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The resulting crude product was subjected to flash chromatography (15% MeOH, 1% NH4OH in EtOAc) to afford, as a mixture of diastereomers, N,N-diethyl-4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidin-1′-yl}benzamide (32 mg, 82%) as a white solid. 1H-NMR (MeOD) δ: 1.19 (t, J=6.6 Hz, 6H), 1.66-1.80 (m, 1H), 1.90-2.05 (m, 1H), 2.18-2.40 (m, 2H), 2.50-2.70 (m, 2H), 2.80-3.06 (m, 4H), 3.15-3.40 (m, 4H), 3.38-3.60 (m, 5H), 4.03 (s, 2H), 4.37-4.50 (m, 1H), 6.58 (d, J=8.4 Hz, 2H), 7.26 (d, J=8.1 Hz, 2H), 7.69 (t, J=7.2 Hz, 1H), 7.86 (d, J=7.2 Hz, 1H), 8.14 (d, J=7.5 Hz, 1H), 8.22 (s, 1H). MS m/z: 560 (M+1)

reactant | 4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidin-1′-yl}benzoic acid | 0.069 mmol, 35 mg | FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CN(CC2)C2CN(CC2)C2=CC=C(C(=O)O)C=C2)C=CC1)(F)F | C25H27F3N4O4
reactant | HATU | 0.086 mmol, 0.032 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.173 mmol, 30.2 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Hydroxybenzotriazole | 0.0867 mmol, 11.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N,N-diethyl-4-{(3R)-3-[({[3-(trifluoromethyl)benzoyl]amino}acetyl)amino]-1,3′-bipyrrolidin-1′-yl}benzamide | 32 mg, 82% | C(C)N(C(C1=CC=C(C=C1)N1CC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=O)CC | C29H36F3N5O3
